US08461179B1
To a solution of (6-chloro-4-(ethylamino)pyridin-3-yl)methanol (2.5 g, 13.4 mmol) in DCM (30 mL) was added MnO2 (5.8 g, 67 mmol) and the reaction mixture was stirred at RT overnight. The reaction mixture was filtered and the filtrate was concentrated in vacuo to give 6-chloro-4-(ethylamino)nicotinaldehyde (2.2 g, 89% yield). 1H NMR (400 MHz, CDCl3): δ 9.82 (s, 1H), 8.51 (br s, 1H), 8.27 (s, 1H), 6.56 (s, 1H), 3.28 (m, 2H), 1.31 (t, J=7.2 Hz, 3H); MS (ESI) m/z: 185.0 [M+H]+.

reactant | (6-chloro-4-(ethylamino)pyridin-3-yl)methanol | 13.4 mmol, 2.5 g | ClC1=CC(=C(C=N1)CO)NCC | C8H11ClN2O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 67 mmol, 5.8 g | O=[Mn]=O
product | 6-chloro-4-(ethylamino)nicotinaldehyde | 2.2 g, 89% yield | ClC1=NC=C(C=O)C(=C1)NCC | C8H9ClN2O
